Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amiodarone
 
Attending: ___.
 
Chief Complaint:
UTI
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o M w/ESRD, afib coumadin, sCHF, neurogenic bladder with 
recurrent UTIs who was sent from ___ to ___ ED with hypotension 
and afib with RVR. Per report, he had a fever and purulent urine 
at rehab and received 2L NSS yesterday. He was transferred from 
___ ED because all of his care is at ___. At ___, his ECG 
showed a fib with HR 160s. His labs were significant for BNP 
>31000, WBC 10.8, and lactate 2.0. He reportedly received PO 
dilt 30mg, 30mg IV dilt, imipenem, and some fluids at ___ prior 
to transfer. 

In the ___ ED, his VS were T 96.6 HR 100 BP 105/82 RR 20 O2 
sat 100% 2L NC. The patient reported cough x5d and pus in 
straight cath today (chronic straight cath for neurogenic 
bladder). All other ROS neg. Has been at ___ after 
discharge from ___ (admission x10d for ESBL UTI per 
report). His primary cardiologist told the ED that dialysis 
paramaters and cardiac meds have been adjusted while at rehab 
with difficulty controlling volume status surrounding HD. He 
felt patient was being pulled of HD because of hypotension 
leading to a decrease of UOP and the rehab center no longer 
straight cathing for urine. His beta blockers were also 
reportedly stopped because of hypotension.  

The ED noted bibasilar crackles, dry MM, and cool extremities on 
exam. He was straight cathed with 30cc yellow pus returned. He 
was treated empirically with vancomycin. His course included a 
CXR showing hypoinflated lungs with no consolidation but 
bilateral pleural effusions. While in the ED, he became more 
hypotension to 85/55 with HR 133. He was somnolent but 
arousable. He was given PO metop 25mg and a total of 400cc IVFs 
here. His HRs remained in the 110-120s (occasionally 140s-150s) 
with SBPs 110 but was asymptomatic and mentating appropriately. 
His labs were significant for lactate of 1.7, WBC 12.1, Cr 8.5, 
BUN 65, and U/A with many bacteria, >182 WBCs, lg leuks, lg bld, 
>300 protein

On arrival to the MICU, the patient was mentating appropriately 
and asymptomatic. He reports that his last HD was ___. He 
was suppose to have HD today but did not because of acute 
illness and time in the hospitals. 

Review of systems:  
(+) Per HPI  
 
Past Medical History:
T2DM - now resolved s/p weight loss, A1c<5% in ___, not on 
treatment
ESRD- most likely multifactorial from hypertensive and 
obstructive nephropathy. On dialysis since ___.  
Atrial fibrillation- Pt is anticoagulated on coumadin.  
Hypertension  
CHF outpatient TTE ___ with LVEF ___ and subsequent 
recovery with EF 48% on office study ___.  
Obesity  
Gout  
PVD  
Anemia of chronic disease- Secondary to renal dysfunction.  
Sleep apnea  
Autonomic dysfunction, remitted (no longer on midodrine and 
fludrocort); persistent volume-sensitive BP regulation  

 
Social History:
___
Family History:
His grandparents and father have hypertension and diabetes.  
 
Physical Exam:
Admission Physical Exam:  
Vitals: T: 98.2 BP: 95/68 P: 112 R: 10 O2: 94%  
General: pleasant, comfortable
HEENT: slightly dry mucuous membranes 
neck: no appreciable JVD
CV: tachycardic, S1S2, no m/r/g
Lungs: Bibasilar crackles with slightly decreased lung sounds at 
the bases
Abdomen: soft, nontender, not distended
Ext: palpable DPs, brisk cap refill, left arm fistula with 
palpable thrill, trace pedal edema 
Neuro: AAOx3

Discharge Physical Exam:

 
Pertinent Results:
ADMISSION LABS:
___ 07:50PM BLOOD WBC-12.1* RBC-3.46* Hgb-10.5* Hct-33.4* 
MCV-97 MCH-30.3 MCHC-31.4 RDW-15.8* Plt ___
___ 07:50PM BLOOD Neuts-75.3* Lymphs-11.6* Monos-9.3 
Eos-2.8 Baso-1.1
___ 11:42PM BLOOD ___ PTT-45.4* ___
___ 07:50PM BLOOD Glucose-121* UreaN-65* Creat-8.4*# Na-140 
K-5.1 Cl-97 HCO3-24 AnGap-24*
___ 11:42PM BLOOD Calcium-8.5 Phos-4.1 Mg-2.2
___ 07:08PM BLOOD Lactate-1.7

IMAGING:
___   Imaging RENAL U.S.
No hydronephrosis.  Marked cortical thinning seen bilaterally 
consistent with chronic renal disease.  Numerous simple 
bilateral renal cysts.  Bilateral nonobstructing stones.

___   Imaging CHEST (PORTABLE AP)
There is interval development of substantial pulmonary edema.  
There are also bilateral pleural effusions, right substantially 
more than left.  Right pneumonia can be obscured by the 
combination pleural effusion or pulmonary edema and the 
assessment of the patient after diuresis is required.

___   Imaging CHEST (PORTABLE AP)
FINDINGS: Since the prior exam, there is an increased right 
pleural effusion with associated right basilar opacity. 
Additionally, obscuration of the left costophrenic angle is 
likely due to a small effusion and atelectasis. There is no 
overt pulmonary edema. The apices of the lungs are clear. There 
is no pneumothorax. The mediastinal contour is normal.  The 
heart size is moderately enlarged, and unchanged from prior 
exams. 
IMPRESSION: 
1. Small bilateral pleural effusions, greater on the right than 
the left. 
2. Bibasilar opacities, likely atelectasis. In the proper 
clinical setting, an infection would be difficult to completely 
exclude. 
3. Stable cardiomegaly. 

MICRO:
      URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------     2 S
CEFTAZIDIME-----------     4 S
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R
 
Brief Hospital Course:
PRINCIPLE REASON FOR ADMISSION
___ y/o M with ESRD and CHF presenting with hypotension and rapid 
a fib with RVR in setting of UTI. 

# Sepsis/UTI: Presented with hypotension, leukocytosis, and 
tachycardia in setting of UTI suggesting likely sepsis due to 
the urinary tract infection. Additionally, straight cath 
revealed grossly infected urine and patient has long history of 
recurrent UTIs with MDR organisms. He was initiated on 
vancomycin and meropenem in the MICU (started on given his 
history of ESBL). He was felt to be stable for the floor and was 
transfered off. He was transitioned to ceftazidime after 
cultures from ___ ED showed ceftaz sensitivity. He is to 
finish a 14 day course on ___. 

He was also continued on q48 hour bladder irrigation with NS 
until clear. Polymyxin solution was then instilled and allowed 
to dwell for 48 hours. He is to continue prophylactic bladder 
irrigation as an outpatient.
  
# A fib w/RVR: Chronic on coumadin and well controlled with PO 
medications at home. However, worsened in setting of sepsis and 
not receiving home meds at rehab due to his above hypotension.  
He was placed on metoprolol 25 mg PO BID and titrated up to 
100mg of metoprolol succinate daily. On ___, he again developed 
RVR with stable blood pressures. He was uptitrated to 150mg 
metoprolol succinate daily with good effect. Heart rate on 
discharge was in the 80's at rest.

# Cough: Some concern for PNA on admission, however, PNA not 
thought to be clinically likely. Cough improved during his 
hospitalization and her intermittently received benztropine and 
guafinesin. He also was started on ipratropium inhaler for 
anticholinergic effect.

# Hypotension: Labile BPs ranging from ___ and appeared 
volume down on admission He recieved several 250cc bolus and was 
encouraged to take PO fluids. He blood pressures responded and 
by time of transfer from the MICU to the floor his blood 
pressures were in the 110s-120s. He was noted to have 
intermittent episodes of asyptomatic hypotension into the 80's 
and 90's following dialysis that resolved without intervention 
and remitted with adjustment of end-dialysis volume repletion to 
goal BP > 110/. On discharge, his blood pressures were 
consistently in the 110's.

#Hyperkalemia: Patient with hyperkalemia to 6.3 on ___. Unclear 
etiology. Patient received additional HD session that day with 
good effect.
# ESRD w/fistula on HD: Makes minimal urine but on HD with 
___ schedule. Unclear how frequently he has been receiving 
prior to admission given his persistent hypotension. His 
creatinine is elevated on admission but he did not receive 
scheduled HD ___ illness and hypotension. He recieved HD while 
in house, last session was ___.

# Neurogenic bladder: Makes minimal UOP in setting of ESRD but 
does require straight cath when making urine. He was restarted 
on his home neosporin bladder irrigation Q48 hours and Q48H 
straight cath. He will require continued bladder irrigation q48 
hours,as an outpatient (arranged.)

# sCHF: Per his PCP, his last measured LVEF was 48%.

TRANSITIONAL ISSUES:
- Please straight cath q48 hours and flush till clear with NS or 
neosporin, with 25 cccc of neosporin in bladder dwell between 
flushes.
- Please ensure SBPs remain >110 at the end of dialysis sessions 
to prevent hypotension and RVR.
- Cont ceftaz dosed with HD through ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Allopurinol ___ mg PO ASDIR 
3. Cinacalcet 30 mg PO BID 
4. Docusate Sodium 100 mg PO BID 
5. Finasteride 5 mg PO DAILY 
6. Furosemide 80 mg PO ONCE DAILY ON NON-HD DAYS 
7. Levothyroxine Sodium 100 mcg PO DAILY 
8. Lidocaine Jelly 2% (Urojet) 1 Appl TP PRN straight cath 
9. Metoprolol Succinate XL 50 mg PO BID 
10. Nephrocaps 1 CAP PO DAILY 
11. Pantoprazole 40 mg PO Q12H 
12. Paricalcitol 6 mcg IV 3X/WEEK (___) with dialysis 
treatment 
___. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
14. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
15. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
16. Warfarin 1 mg PO ASDIR 
17. Sucralfate 1 gm PO TID 
18. Warfarin 4 mg PO DAILY16 

 
Discharge Medications:
1. ___ Order
Straight catheterize bladder q48 hours and flush to clear with 
normal saline.
2. DME
Silicone bladder catheter ___
Disp#15
3. Neomycin-Polymyxin B GU 1 mL / 1000 ml SW ___ Q48H 
RX *neomycin-polymyxin B GU 40 mg-200,000 unit/mL 1 application 
q48 hours Disp ___ Milliliter Refills:*0
4. Acetaminophen 325 mg PO Q6H:PRN pain 
5. Cinacalcet 30 mg PO BID 
6. Docusate Sodium 100 mg PO BID 
7. Finasteride 5 mg PO DAILY 
8. Levothyroxine Sodium 100 mcg PO DAILY 
9. Lidocaine Jelly 2% (Urojet) 1 Appl TP PRN straight cath 
10. Metoprolol Succinate XL 150 mg PO DAILY 
RX *metoprolol succinate [Toprol XL] 50 mg 3 tablet extended 
release 24 hr(s) by mouth daily Disp #*90 Tablet Refills:*0
11. Nephrocaps 1 CAP PO DAILY 
12. Pantoprazole 40 mg PO Q12H 
13. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
14. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
15. Sucralfate 1 gm PO TID 
16. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
17. CefTAZidime 1 g IV POST HD 
RX *ceftazidime-dextrose (iso-osm) [Fortaz in dextrose 5 %] 1 
gram/50 mL 1 g IV post HD Disp #*2 Unit Refills:*0
18. Allopurinol ___ mg PO ASDIR 
19. Furosemide 80 mg PO ONCE DAILY ON NON-HD DAYS 
20. Paricalcitol 6 mcg IV 3X/WEEK (___) with dialysis 
treatment 
___. Warfarin 1 mg PO ASDIR 
22. Warfarin 4 mg PO DAILY16 
23. Benzonatate 100 mg PO TID cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0
24. Guaifenesin 5 mL PO Q6H Cough 
RX *guaifenesin 100 mg/5 mL 5 mL by mouth q6 hours Disp #*300 
Milliliter Refills:*0
25. Ipratropium Bromide MDI 1 PUFF IH Q6H:PRN cough 
RX *ipratropium bromide [Atrovent HFA] 17 mcg/actuation 1 puff 
IH q6 hours Disp #*1 Inhaler Refills:*0
26. Outpatient Lab Work
Check INR ___ and send results to Dr. ___:
Name: ___. 
Address: ___ 
Phone: ___ 
Diagnosis: Atrial Fibrillation
27. Please dose coumadin at 3mg per day until INR checked on ___ 
and dose adjusted by Dr. ___ 

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
1. Complicated urinary tract infection
2. Atrial fibrillation with rapid ventricular response
3. Pulmonary edema
4. Cough

SECONDARY DIAGNOSIS;
1. End-stage renal disease
2. Congestive heart failure
3. Neurogenic bladder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Internal Medicine service at ___ 
___ on ___ 7 regarding management 
of your urinary tract infection (UTI) and atrial fibrillation 
(Afib). For your UTI you were treated with IV antibiotics and 
will be discharged  to complete a 14 day course of treatment. 
For the Afib you were treated with metoprolol, and your home 
dose was increased. The symptoms of low blood pressure and 
elevated heart rate that brought you into the hospital have 
resolved.
 
You also had a persistent cough while you were here, and serial 
blood tests and x-rays did not show any convincing evidence of 
pneumonia or other lung infection. We gave you cough medicines 
and an ipratropium inhaler to help decrease saliva that may have 
contributed to the cough.
 
It is important to take all of your medications as prescribed. 
In addition, please make every attempt to attend your follow-up 
appointments, as scheduled. 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Please call your doctor or go to the emergency department if:
* You experience new chest pain, pressure, squeezing or 
tightness.
* You develop new or worsening cough, shortness of breath, or 
wheezing.
* You are vomiting and cannot keep down fluids, or your 
medications.
* If you are getting dehydrated due to continued vomiting, 
diarrhea, or other reasons. Signs of dehydration include: dry 
mouth, rapid heartbeat, or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit, or have a 
bowel movement.
* You experience burning when you urinate, have blood in your 
urine, or experience an unusual discharge.
* Your pain is not improving within 12 hours or is not under 
control within 24 hours.
* Your pain worsens or changes location.
* You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
* You develop any other concerning symptoms.
 
Followup Instructions:
___